US03971784
2.6 g. (0.02 mole) of 5-fluorouracil and 1.52 g (0.011 mole) of anhydrous potassium carbonate were suspended in 50 ml. of dioxane and then 2.53 g (0.022 mole) of methanesulfonyl chloride in 20 ml. of dioxane was dropwise added thereto. After stirring at 80°C. for 10 hours, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure and a resinous residue was obtained. The residue was dissolved in a small amount of methanol and allowed to stand at 0°C. overnight. There was obtained 1.48 g (45.4% yield) of 5-fluoro-1 -methanesulfonyluracil. Recrystallization of the product from methanol gave leaflets melting at 223°-224°C. The results of an elementary analysis thereof were well in agreement with the calculated value as follows:

reactant | 5-fluorouracil | 0.02 mole | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | potassium carbonate | 0.011 mole, 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | methanesulfonyl chloride | 0.022 mole, 2.53 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | CO | CH4O
product | 5-fluoro-1 -methanesulfonyluracil | 1.48 g, 45.4% yield | FC=1C(NC(N(C1)S(=O)(=O)C)=O)=O | C5H5FN2O4S
